US04891432
To a solution of 3 g ethyl 6-[p-[5-(1-imidazolyl)pentyloxy]phenoxy]-2,2-dimethylhexanoate in 15 ml methanol, was added a solution of 580 mg sodium hydroxide in 6 ml water, and the mixture was heated under reflux for 5 hours. Methanol was distilled off under reduced pressure, and dilute hydrochloric acid was added to the remaining aqueous solution to lower its pH down to about 5. The solid which separated out was collected by filtration, washed with water, and recrystallized from methanol, affording 2.3 g of 6-[p-[5-(1-imidazolyl)pentyloxy]phenoxy]-2,2-dimethylhexanoic acid.

reactant | ethyl 6-[p-[5-(1-imidazolyl)pentyloxy]phenoxy]-2,2-dimethylhexanoate | 3 g | N1(C=NC=C1)CCCCCOC1=CC=C(OCCCCC(C(=O)OCC)(C)C)C=C1 | C24H36N2O4
reactant | sodium hydroxide | 580 mg | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 6 ml | O | H2O
product | 6-[p-[5-(1-imidazolyl)pentyloxy]phenoxy]-2,2-dimethylhexanoic acid | 2.3 g | N1(C=NC=C1)CCCCCOC1=CC=C(OCCCCC(C(=O)O)(C)C)C=C1 | C22H32N2O4
